US06858638B2
N-Phenyl-5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazole-3-carboxamide can be obtained as described in Example 2 from 40 mg of N-phenyl-5-amino-1H-indazole-3-carboxamide, 4 ml of pyridine and 40 mg of 2-methylsulfonylbenzenesulfonyl chloride. 50 mg of N-phenyl-5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazole-3-carboxamide are thus obtained in the form of a pale yellow solid melting at 258° C. (analysis C21H18N4O5S2.0.48H2O, % calculated C, 53.61; H, 3.86; N, 11.91; O, 17.00; S, 13.63. % found C, 53.17; H, 3.48; N, 11.58; S, 14.08).

reactant | N-phenyl-5-amino-1H-indazole-3-carboxamide | 40 mg | C1(=CC=CC=C1)NC(=O)C1=NNC2=CC=C(C=C12)N | C14H12N4O
reactant | 2-methylsulfonylbenzenesulfonyl chloride | 40 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | N-phenyl-5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazole-3-carboxamide | 50 mg | C1(=CC=CC=C1)NC(=O)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C21H18N4O5S2
